US09447036B2
1-Benzyl-3-(3,5-dichlorophenyl)-4-(phenylsulfinyl)-3-(trifluoromethyl)pyrrolidinium chloride (1.00 g, 82% purity, 1.53 mmol) is suspended in toluene (3 mL) under a nitrogen atmosphere. Sodium carbonate (810 mg, 7.65 mmol) was added and the mixture was heated to reflux for 2.5 hours. After cooling water was added, the phases were separated and the aqueous phase was extracted twice with toluene. The combined organic phases were dried over sodium sulphate, filtered and the solvent evaporated. The residue was repeatedly crystallized from n-heptane to yield 1-benzyl-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,3-dihydro-1H-pyrrole (198 mg, 89% purity, 31% yield).

reactant | 1-Benzyl-3-(3,5-dichlorophenyl)-4-(phenylsulfinyl)-3-(trifluoromethyl)pyrrolidinium chloride | 1.53 mmol, 1.00 g | [Cl-].C(C1=CC=CC=C1)[NH+]1CC(C(C1)S(=O)C1=CC=CC=C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl
reactant | Sodium carbonate | 7.65 mmol, 810 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-2,3-dihydro-1H-pyrrole | 198 mg, 31% yield | C(C1=CC=CC=C1)N1CC(C=C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C18H14Cl2F3N
